US06391520B1
To 30 ml of tetrahydrofuran were added 5 mmol of 1-acryloyloxy-3,5-dihydroxyadamantane and 15 mmol of acetoaldehyde and 1 mmol of p-toluenesulfonic acid, and the mixture was stirred at 30° C. for 6 hours. Then, the reaction mixture was condensed under acidic conditions and crystallized by adding dropwise to diethyl ether to give the object compound 1-acryloyloxy-3,5-di(1-hydroxyethoxy)adamantane (acetal compound).

reactant | 1-acryloyloxy-3,5-dihydroxyadamantane | 5 mmol | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)(C2)O)O | C13H18O4
reactant | acetoaldehyde | 15 mmol | C(C)=O | C2H4O
reactant | p-toluenesulfonic acid | 1 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-acryloyloxy-3,5-di(1-hydroxyethoxy)adamantane | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)(C2)OC(C)O)OC(C)O | C17H26O6
